### PR TITLE
[Merged by Bors] - feat(Probability): simple lemmas about mgf

### PR DESCRIPTION
**Pull request by RemyDegenne**
---

I left a todo comment about `continuousOn_mgf`, which is currently weaker than it could be, but I have other PRs which need its consequence `continuous_mgf`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Moments/MGFAnalytic.lean [hunk 1]
```diff
@@ -125,6 +125,23 @@ lemma hasFPowerSeriesAt_mgf (hv : v ∈ interior (integrableExpSet X μ)) :
...
+
+lemma continuous_mgf (h : ∀ t, Integrable (fun ω ↦ exp (t * X ω)) μ) :
+    Continuous (mgf X μ) := by
+  rw [continuous_iff_continuousOn_univ]
+  convert continuousOn_mgf
+  symm
+  rw [interior_eq_univ]
+  ext t
+  simp only [Set.mem_univ, iff_true]
+  exact h t
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/MGFAnalytic.lean:143]: Just a bit shorter.
```suggestion
  simpa using h t
```

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge
